US04966905
2-Methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone
To a solution of 3-thiophenecarboxaldehyde (1.07 g, 9.6 mM) and 2,5-dimethyl-2-phenyl-3(2H)-furanone (1.5 g, 8 mM) in ethanol (50 mL), was added 1N aqueous sodium hydroxide (1.6 mL, 1.6 mM). After the reaction solution was stirred at room temperature for one day, saturated aqueous sodium chloride (400 mL) was added. The aqueous layer was extracted with dichloromethane (3×100 mL). The combined dichloromethane extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated to give a yellow liquid. The liquid was purified by chromatography (silica gel, pet. ether-ethyl acetate) to afford a yellow solid (1.6 g, 71% yield), m.p. 75°-77° C.

reactant | 3-thiophenecarboxaldehyde | 9.6 mM, 1.07 g | S1C=C(C=C1)C=O | C5H4OS
reactant | 2,5-dimethyl-2-phenyl-3(2H)-furanone | 8 mM, 1.5 g | CC1(OC(=CC1=O)C)C1=CC=CC=C1 | C12H12O2
reactant | sodium hydroxide | 1N, 1.6 mL | [OH-].[Na+]
reactant | sodium chloride | 400 mL | [Cl-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-Methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone | 1.6 g, 71% yield | CC1(OC(=CC1=O)C=CC1=CSC=C1)C1=CC=CC=C1 | C17H14O2S
